US06180635B2
a) (±) 6-(1-[Dimethyl-(1,1-dimethylethyl)silyloxy]-1-[1-naphthalenyl]methyl)-3-methyl-1-(2-methylpropyl)thieno[2,3-d]pyrimidin-2,4(1H,3H)-dione
Dimethyl-(1,1-dimethylethyl)silyl chloride (230 mg) and imidazole (130 mg) were added to a solution of (±)6-(1-hydroxy-1-[1-naphthalenyl]methyl)-3-methyl-1-(2-methylpropyl)thieno[2,3-d]pyrimidin-2,4(1H,3H)-dione (500 mg) in dimethylformamide (10 ml). The solution was stirred at ambient temperature for 3 days. The reaction mixture was quenched with dilute hydrochloric acid and extracted with ethyl acetate. The organic phase was separated and washed twice with dilute hydrochloric acid and once with brine, dried over magnesium sulfate and concentrated in vacuo. Purification by chromatography on silica gel eluting with isohexane:ethyl acetate (4:1 to 2:1) gave the subtitle product (0.47 g).

reactant | Dimethyl-(1,1-dimethylethyl)silyl chloride | 230 mg | C[Si](C(C)(C)C)(C)Cl | C6H15ClSi
reactant | imidazole | 130 mg | N1C=NC=C1 | C3H4N2
reactant | (±)6-(1-hydroxy-1-[1-naphthalenyl]methyl)-3-methyl-1-(2-methylpropyl)thieno[2,3-d]pyrimidin-2,4(1H,3H)-dione | 500 mg | OC(C1=CC=CC2=CC=CC=C12)C1=CC2=C(N(C(N(C2=O)C)=O)CC(C)C)S1 | C22H22N2O3S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (±) 6-(1-[Dimethyl-(1,1-dimethylethyl)silyloxy]-1-[1-naphthalenyl]methyl)-3-methyl-1-(2-methylpropyl)thieno[2,3-d]pyrimidin-2,4(1H,3H)-dione | 0.47 g | C[Si](OC(C1=CC=CC2=CC=CC=C12)C1=CC2=C(N(C(N(C2=O)C)=O)CC(C)C)S1)(C(C)(C)C)C | C28H36N2O3SSi
